US05650428
The procedure described in Example 179 was repeated, except that (RS)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid (300.2 mg) and ethyl 4-aminophenylacetate hydrochloride (202.2 mg) were condensed in THF (5 ml) in the presence of triethylamine (422.4 μl) and pivaloyl chloride (153.9 μl), and then the resulting crude product was recrystallized from ethanol to obtain (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide (35.1 mg).

reactant | (RS)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid | 300.2 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1=CC=CC=C1 | C15H14BrNO4S
reactant | ethyl 4-aminophenylacetate hydrochloride | 202.2 mg | Cl.NC1=CC=C(C=C1)CC(=O)OCC
reactant | triethylamine | 422.4 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 153.9 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide | 35.1 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CC1=CC=CC=C1 | C25H25BrN2O5S
